US07427683B2
c) 5-Cyano-furan-2-carboxylic acid (3-chloro-2-piperidin-1-yl-phenyl)-amide
Using a procedure similar to Example 3, step (d), 3-chloro-2-piperidin-1-yl-phenylamine (54 mg, 0.25 mmol, as prepared in the previous step) was allowed to react with 5-cyano-furan-2-carbonyl chloride (55.8 mg, 0.360 mmol) in the presence of DIEA (95 μL, 0.55 mmol) to afford 8.4 mg (10%) of the title compound as a yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 10.70 (br s, 1H), 8.42 (dd, 1H, J=1.4, 8.1 Hz), 7.30 (dd, J=1.5, 3.7 Hz), 7.24 (d, 1H, J=3.7 Hz), 7.17 (t, 1H, J=8.1 Hz), 7.07 (dd, 1H, J=1.4, 8.1 Hz), 3.58-3.52 (m, 2H), 2.85-2.82 (m, 2H), 2.02-1.99 (m, 1H), 1.89-1.72 (m, 4H), 1.52-1.38 (m, 1H), Mass spectrum (ESI, m/z): Calcd. for C17H16ClN3O2, 330.0 (M+H), found 330.1.

reactant | 3-chloro-2-piperidin-1-yl-phenylamine | ClC=1C(=C(C=CC1)N)N1CCCCC1 | C11H15ClN2
reactant | 5-cyano-furan-2-carbonyl chloride | 0.360 mmol, 55.8 mg | C(#N)C1=CC=C(O1)C(=O)Cl | C6H2ClNO2
reactant | DIEA | 0.55 mmol, 95 μL | CCN(C(C)C)C(C)C | C8H19N
product | 5-Cyano-furan-2-carboxylic acid (3-chloro-2-piperidin-1-yl-phenyl)-amide | 8.4 mg, 10% | ClC=1C(=C(C=CC1)NC(=O)C=1OC(=CC1)C#N)N1CCCCC1 | C17H16ClN3O2
